US04760078
5-(4-phenyl-1,3-butadienyl)-1,2-dithiol-3-thione (Compound No. 1)
To 40 ml of methanol, 600 mg (24 milligrams atom) of magnesium metal was added, and the mixture was heated to reflux for 1 hour to dissolve the magnesium metal. While cooling the mixture in ice water, 1.4 g (10 milli moles) of cinnamaldehyde, and then 1.56 g (10 milli moles) of 5-methyl-1,2-dithiol-3-thione were added to the mixture and the mixture was stirred for 1 hour at the same temperature. Separated crystals were recovered by filtration, and were added to 300 ml of ethyl acetate. Insolubles were removed by filtration, and the mother liquor was washed with water and dried over magnesium sulfate. The solvent was evaporated under reduced pressure, and the obtained crude crystals were recrystallized from benzene-ethanol to obtain dark red crystals of

reactant | magnesium | 600 mg | [Mg] | Mg
reactant | cinnamaldehyde | 10 milli moles, 1.4 g | C(C=CC1=CC=CC=C1)=O | C9H8O
reactant | 5-methyl-1,2-dithiol-3-thione | 10 milli moles, 1.56 g | CC1=CC(SS1)=S | C4H4S3
solvent | methanol | 40 ml | CO | CH4O
product | 5-(4-phenyl-1,3-butadienyl)-1,2-dithiol-3-thione | C1(=CC=CC=C1)C=CC=CC1=CC(SS1)=S | C13H10S3
